US06878715B1
To a stirred suspension of (R)-1-(5-acetoxyhexyl)-8-hydroxymethyl-3-methylxanthine (6.35 g, 18.8 mmol) and potassium carbonate (5.2 g, 38 mmol) in dimethylformamide (55 ml) was added methyl iodide (4.0 g, 28.2 mmol). After stirring overnight at room temperature, the mixture was poured into ice cold water (250 ml) and stirred at 0-5° C. for 1 hour. The precipitate was filtered, rinsed with water (5×25 ml), and dried under vacuum to provide (R)-1-(5-acetoxyhexyl)-8-hydroxymethyl-3,7-dimethylxanthine (6.3 g, 95% yield) as a white solid.

reactant | (R)-1-(5-acetoxyhexyl)-8-hydroxymethyl-3-methylxanthine | 18.8 mmol, 6.35 g | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)CO)C)C | C15H22N4O5
reactant | potassium carbonate | 38 mmol, 5.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 28.2 mmol, 4.0 g | CI | CH3I
solvent | dimethylformamide | 55 ml | CN(C=O)C | C3H7NO
product | (R)-1-(5-acetoxyhexyl)-8-hydroxymethyl-3,7-dimethylxanthine | 6.3 g, 95% yield | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)C)CO)C)C | C16H24N4O5
